US07465731B2
To a solution of (2E)-3-(5-chloro-6-{[1-(4-methylbenzyl)-4-piperidyl]amino}-3-pyridyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (470 mg) in EtOH (2 ml) was treated with 2N HCl in EtOH (2.42 ml) and was stirred at 25° C. for 1 hour. The precipitate was collected, washed with EtOH, dried under reduced pressure to give (2E)-3-(5-chloro-6-{[1-(4-methylbenzyl)-4-piperidyl]amino}-3-pyridyl)-N-hydroxyacrylamide dihydrochloride (308 mg).

reactant | (2E)-3-(5-chloro-6-{[1-(4-methylbenzyl)-4-piperidyl]amino}-3-pyridyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 470 mg | ClC=1C=C(C=NC1NC1CCN(CC1)CC1=CC=C(C=C1)C)/C=C/C(=O)NOC1OCCCC1 | C26H33ClN4O3
reactant | HCl | 2N | Cl | ClH
solvent | EtOH | 2 ml | CCO | C2H6O
solvent | EtOH | 2.42 ml | CCO | C2H6O
product | (2E)-3-(5-chloro-6-{[1-(4-methylbenzyl)-4-piperidyl]amino}-3-pyridyl)-N-hydroxyacrylamide dihydrochloride | 308 mg | Cl.Cl.ClC=1C=C(C=NC1NC1CCN(CC1)CC1=CC=C(C=C1)C)/C=C/C(=O)NO | InChI=1S/C21H25ClN4O2.2ClH/c1-15-2-4-16(5-3-15)14-26-10-8-18(9-11-26)24-21-19(22)12-17(13-23-21)6-7-20(27)25-28;;/h2-7,12-13,18,28H,8-11,14H2,1H3,(H,23,24)(H,25,27);2*1H/b7-6+;;
